US04504490
5-(3-Trifluoromethylphenylsulfonyloxy)-2-ureidoaniline (formula II)
61.5 g of 5-(3-trifluoromethylphenylsulfonyloxy)-2-ureidonitrobenzene in 200 ml of methanol and 200 ml of 2-methoxyethanol are hydrogenated under normal pressure with a catalytic amount of Raney nickel. After hydrogen uptake is complete, the catalyst is filtered off with suction, washed with methanol and the solution is evaporated under reduced pressure, 1 liter of water is added, and the solid is filtered off with suction, washed with water and dried over NaOH, melting point 172° C., decomposition.

reactant | 5-(3-trifluoromethylphenylsulfonyloxy)-2-ureidonitrobenzene | 61.5 g | FC(C=1C=C(C=CC1)S(=O)(=O)OC=1C=CC(=C(C1)[N+](=O)[O-])NC(=O)N)(F)F | C14H10F3N3O6S
reactant | hydrogen | [H][H] | H2
solvent | methanol | 200 ml | CO | CH4O
solvent | 2-methoxyethanol | 200 ml | COCCO | C3H8O2
catalyst | Raney nickel | [Ni] | Ni
product | 5-(3-Trifluoromethylphenylsulfonyloxy)-2-ureidoaniline | FC(C=1C=C(C=CC1)S(=O)(=O)OC=1C=CC(=C(N)C1)NC(=O)N)(F)F | C14H12F3N3O4S
